US20010053779A1
A solution comprising 2-naphth-2-ylethanol (0.5 g, 2.9 mmol) in dry DMF (5 mL) was combined under nitrogen with diphenylphosphoryl azide (0.74 mL, 3.42 mmol) and 1,8-diazaabicyclo[5.4.0]undec-7-ene (0.47 mL. 3.14 mmol). The mixture was heated at 65° C. for 3 hours and then partitioned between water and diethyl ether. The aqueous layer was separated and extracted with diethyl ether. The combined organic layers were washed with 3N hydrochloric acid and then saturated sodium bicarbonate, dried (MgSO4), filtered and concentrated by rotary evaporation. The residue was dissolved in THF (5 mL) and the solution was combined with triphenylphosphine (1 g, 3.81 mmol), stirred for 2 hours at room temperature, diluted with water (0.100 mL), stirred 3 hours, diluted with concentrated hydrochloric acid (0.33 mL) to give a precipitate, treated with ethanol (5 mL) to dissolve the precipitate and treated with diethyl ether, added slowly, to give a white precipitate. The while precipitate was isolated by filtration, washed with diethyl ether and dried under vacuum to provide 2-naphth-2-ylethylamine hydrochloride (0.447 g, 75% yield);

reactant | 2-naphth-2-ylethanol | 2.9 mmol, 0.5 g | C1=C(C=CC2=CC=CC=C12)CCO | C12H12O
reactant | diphenylphosphoryl azide | 3.42 mmol, 0.74 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | undec-7-ene | 3.14 mmol, 0.47 mL | CCCCCCC=CCCC | C11H22
reactant | triphenylphosphine | 3.81 mmol, 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | 0.33 mL | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 0.100 mL | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-naphth-2-ylethylamine hydrochloride | 0.447 g, 75% yield | Cl.C1=C(C=CC2=CC=CC=C12)CCN | InChI=1S/C12H13N.ClH/c13-8-7-10-5-6-11-3-1-2-4-12(11)9-10;/h1-6,9H,7-8,13H2;1H
